### PR TITLE
[Merged by Bors] - feat: port Logic.Equiv.Basic

### PR DESCRIPTION
**Pull request by 77Tigers**
mathlib SHA: c3019c79074b0619edb4b27553a91b2e82242395 [I think this is right..?]
WIP

- [x] depends on: #550

### CODE REVIEW

File: Mathlib/Logic/Equiv/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,1811 @@
+/-
+Copyright (c) 2015 Microsoft Corporation. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Leonardo de Moura, Mario Carneiro
+-/
```
Comment (semorrison) [inline Mathlib/Logic/Equiv/Basic.lean:5]: If you'd like, you can add a 
```
Ported by: <your name>
```
here. We've been meaning to start doing this to properly credit people!

File: Mathlib/Logic/Equiv/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,1811 @@
...
+import Mathlib.Data.Prod.Basic
+import Mathlib.Data.Sigma.Basic
+import Mathlib.Data.Subtype
+import Mathlib.Data.Sum.Basic
+import Mathlib.Logic.Function.Conjugate
+
+/-!
+# Equivalence between types
+
+In this file we continue the work on equivalences begun in `logic/equiv/defs.lean`, defining
```
Comment (semorrison) [inline Mathlib/Logic/Equiv/Basic.lean:16]:
```suggestion
In this file we continue the work on equivalences begun in `Logic/Equiv/Defs.lean`, defining
```

File: Mathlib/Logic/Equiv/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,1811 @@
...
+
+* canonical isomorphisms between various types: e.g.,
+
+  - `equiv.sum_equiv_sigma_bool` is the canonical equivalence between the sum of two types `α ⊕ β`
```
Comment (semorrison) [inline Mathlib/Logic/Equiv/Basic.lean:20]:
```suggestion
  - `Equiv.sumEquivSigmaBool` is the canonical equivalence between the sum of two types `α ⊕ β`
```

File: Mathlib/Logic/Equiv/Basic.lean (hunk 2 above)
Comment (semorrison) [reply Mathlib/Logic/Equiv/Basic.lean:16]: Please check other comments for file names.

File: Mathlib/Logic/Equiv/Basic.lean (hunk 3 above)
Comment (semorrison) [reply Mathlib/Logic/Equiv/Basic.lean:20]: Please check other doc-strings for casing issues.

**Comment by semorrison** [comment]
Can you please satisfy the long line linter by wrapping lines >100 characters.

File: Mathlib/Logic/Equiv/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,1811 @@
...
+namespace Perm
+
+/-- Combine a permutation of `α` and of `β` into a permutation of `α ⊕ β`. -/
+@[reducible]
+def sumCongr {α β : Type _} (ea : Equiv.Perm α) (eb : Equiv.Perm β) : Equiv.Perm (Sum α β) :=
+  Equiv.sumCongr ea eb
+#align equiv.perm.sum_congr Equiv.Perm.sumCongr
+
+@[simp]
+theorem sum_congr_apply {α β : Type _} (ea : Equiv.Perm α) (eb : Equiv.Perm β) (x : Sum α β) :
```
Comment (semorrison) [inline Mathlib/Logic/Equiv/Basic.lean:277]: Should be named `sumCongr_apply`. Make sure the update the corresponding #align at the same time.

This affects many definitions elsewhere in the file.

**Comment by semorrison** [comment]
Could you please include in the PR description the mathlib git sha you are porting this from. You should be able to find this, e.g. by looking at the first line of `README` in mathlib3port.

**Comment by semorrison** [comment]
I'm hoping some of the mysterious lint errors were solved in #647; I've just merged master for this.

**Comment by ericrbg** [comment]
the simps projections are defined in Logic/Equiv/Defs.lean; do we want to keep them as-is or change them?

File: Mathlib/Logic/Equiv/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,1900 @@
...
+  rfl
+#align equiv.sum_assoc_symm_apply_inr_inr Equiv.sumAssoc_symm_apply_inr_inr
+
+/-- Sum with `IsEmpty` is equivalent to the original type. -/
+@[simps symm_apply]
+def sumEmpty (α β) [IsEmpty β] : Sum α β ≃ α :=
+  ⟨Sum.elim id isEmptyElim, inl, fun s => by
+    rcases s with (_ | x)
+    rfl
+    exact isEmptyElim x, fun a => rfl⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Logic/Equiv/Basic.lean:371]: Should this be
```suggestion
    rcases s with (_ | x)
    · rfl
    · exact isEmptyElim x, fun a => rfl⟩
```
?

Or maybe even better:
```lean
def sumEmpty (α β) [IsEmpty β] : Sum α β ≃ α where
  toFun := Sum.elim id isEmptyElim
  invFun := inl
  left_inv s := by
    rcases s with (_ | x)
    · rfl
    · exact isEmptyElim x
  right_inv _ := rfl
```

File: Mathlib/Logic/Equiv/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,1900 @@
...
+    cases x
+    · intro n
+      exfalso
+      exact h n
+    · intro _
+      exact rfl
+  (sigmaSubtypeEquivOfSubset _ _ h').symm.trans (sigmaCongrLeft' (optionIsSomeEquiv α))
+#align equiv.sigma_option_equiv_of_some Equiv.sigmaOptionEquivOfSome
+
+-- ericr: this definition doesn't seem nice indentation-wise; is this just the Lean4 style?
```
Comment (Ruben-VandeVelde) [inline Mathlib/Logic/Equiv/Basic.lean:1194]: I'm surprised this is the one that bothers you :)

Maybe all the equiv definitions that don't fit on one line should use the `where` syntax

File: Mathlib/Logic/Equiv/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,1900 @@
...
+  rw [← Equiv.trans_apply, Equiv.swap_swap, Equiv.refl_apply]
+#align equiv.swap_apply_self Equiv.swap_apply_self
+
+/-- A function is invariant to a swap if it is equal at both elements -/
+theorem apply_swap_eq_self {v : α → β} {i j : α} (hv : v i = v j) (k : α) :
+    v (swap i j k) = v k := by
+  by_cases hi:k = i
+  · rw [hi, swap_apply_left, hv]
+
+  by_cases hj:k = j
```
Comment (kbuzzard) [inline Mathlib/Logic/Equiv/Basic.lean:1579]:
```suggestion
  by_cases hj : k = j
```

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/Logic/Equiv/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,1900 @@
...
+
+  rw [swap_apply_of_ne_of_ne hi hj]
+#align equiv.apply_swap_eq_self Equiv.apply_swap_eq_self
+
+theorem swap_apply_eq_iff {x y z w : α} : swap x y z = w ↔ z = swap x y w := by
+  rw [apply_eq_iff_eq_symm_apply, symm_swap]
+#align equiv.swap_apply_eq_iff Equiv.swap_apply_eq_iff
+
+theorem swap_apply_ne_self_iff {a b x : α} : swap a b x ≠ x ↔ a ≠ b ∧ (x = a ∨ x = b) := by
+  by_cases hab:a = b
```
Comment (kbuzzard) [inline Mathlib/Logic/Equiv/Basic.lean:1590]:
```suggestion
  by_cases hab : a = b
```

File: Mathlib/Logic/Equiv/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,1900 @@
...
+  · simp [hab]
+
+  by_cases hax:x = a
+  · simp [hax, eq_comm]
+
+  by_cases hbx:x = b
```
Comment (kbuzzard) [inline Mathlib/Logic/Equiv/Basic.lean:1596]:
```suggestion
  by_cases hbx : x = b
```

File: Mathlib/Logic/Equiv/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,1900 @@
...
+    { x // p₂ x } ≃ Quotient s₂ where
+  toFun a :=
+    Quotient.hrecOn a.1 (fun a h => ⟦⟨a, (hp₂ _).2 h⟩⟧)
+      (fun a b hab => hfunext (by rw [Quotient.sound hab]) fun h₁ h₂ _ =>
+        heq_of_eq (Quotient.sound ((h _ _).2 hab)))
+      a.2
+  invFun a :=
+    Quotient.liftOn a (fun a => (⟨⟦a.1⟧, (hp₂ _).1 a.2⟩ : { x // p₂ x })) fun a b hab =>
+      Subtype.ext_val (Quotient.sound ((h _ _).1 hab))
+  -- for some reason, doing this as a `fun ⟨a, ha⟩ => ` block breaks things.
```
[the remark this answers is not in the document]
Comment (ericrbg) [reply Mathlib/Logic/Equiv/Basic.lean:1428]: trying to create a MWE will be quite difficult imo

File: Mathlib/Logic/Equiv/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,1900 @@
...
+#align equiv.swap_apply_ne_self_iff Equiv.swap_apply_ne_self_iff
+
+namespace Perm
+
+@[simp]
+theorem sumCongr_swap_refl {α β : Sort _} [DecidableEq α] [DecidableEq β] (i j : α) :
+    Equiv.Perm.sumCongr (Equiv.swap i j) (Equiv.refl β) = Equiv.swap (Sum.inl i) (Sum.inl j) := by
+  ext x
+  cases x
+  · simp [Sum.map, swap_apply_def]
```
Comment (kbuzzard) [inline Mathlib/Logic/Equiv/Basic.lean:1609]:
```suggestion
  · simp only [Equiv.sumCongr_apply, Sum.map, coe_refl, comp.right_id, Sum.elim_inl, comp_apply,
      swap_apply_def, Sum.inl.injEq]
```
Do we want to remove this non-terminal `simp`?

File: Mathlib/Logic/Equiv/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,1900 @@
...
+#align equiv.perm.sum_congr_swap_refl Equiv.Perm.sumCongr_swap_refl
+
+@[simp]
+theorem sumCongr_refl_swap {α β : Sort _} [DecidableEq α] [DecidableEq β] (i j : β) :
+    Equiv.Perm.sumCongr (Equiv.refl α) (Equiv.swap i j) = Equiv.swap (Sum.inr i) (Sum.inr j) := by
+  ext x
+  cases x
+  · simp [Sum.map, swap_apply_of_ne_of_ne]
+
+  · simp [Sum.map, swap_apply_def]
```
Comment (kbuzzard) [inline Mathlib/Logic/Equiv/Basic.lean:1623]:
```suggestion
  · simp only [Equiv.sumCongr_apply, Sum.map, coe_refl, comp.right_id, Sum.elim_inr, comp_apply,
      swap_apply_def, Sum.inr.injEq]
```
do we want to remove this non-terminal simp?

File: Mathlib/Logic/Equiv/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,1900 @@
...
+
+/-- Augment an equivalence with a prescribed mapping `f a = b` -/
+def setValue (f : α ≃ β) (a : α) (b : β) : α ≃ β :=
+  (swap a (f.symm b)).trans f
+#align equiv.set_value Equiv.setValue
+
+@[simp]
+theorem setValue_eq (f : α ≃ β) (a : α) (b : β) : setValue f a b a = b := by
+  dsimp [setValue]
+  simp [swap_apply_left]
```
Comment (kbuzzard) [inline Mathlib/Logic/Equiv/Basic.lean:1638]:
```suggestion
  simp [setValue, swap_apply_left]
```

**Review by kbuzzard — COMMENTED** [review]
This looks essentially ready to me. I left a bunch of trivial comments.

File: Mathlib/Logic/Equiv/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,1900 @@
...
+
+@[simp]
+theorem swap_apply_self (i j a : α) : swap i j (swap i j a) = a := by
+  rw [← Equiv.trans_apply, Equiv.swap_swap, Equiv.refl_apply]
+#align equiv.swap_apply_self Equiv.swap_apply_self
+
+/-- A function is invariant to a swap if it is equal at both elements -/
+theorem apply_swap_eq_self {v : α → β} {i j : α} (hv : v i = v j) (k : α) :
+    v (swap i j k) = v k := by
+  by_cases hi:k = i
```
[the remark this answers is not in the document]
Comment (Ruben-VandeVelde) [reply Mathlib/Logic/Equiv/Basic.lean:1575]: mathlib3 was [fixed](https://github.com/leanprover-community/mathlib3port/commit/dabd052569149c411f52a7cff0164edd12e70fd5) after this branch was started

File: Mathlib/Logic/Equiv/Basic.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (semorrison) [reply Mathlib/Logic/Equiv/Basic.lean:1427]: But we should MWE this anyway. It can't be that hard.

File: Mathlib/Logic/Equiv/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,1900 @@
...
+section
+
+/-- The type of functions to a product `α × β` is equivalent to the type of pairs of functions
+`γ → α` and `γ → β`. -/
+def arrowProdEquivProdArrow (α β γ : Type _) : (γ → α × β) ≃ (γ → α) × (γ → β) :=
+  ⟨fun f => (fun c => (f c).1, fun c => (f c).2), fun p c => (p.1 c, p.2 c),
+    fun f => funext fun c => Prod.mk.eta,
+      fun p => by
+      cases p
+      rfl⟩
```
[the remark this answers is not in the document]
Comment (semorrison) [reply Mathlib/Logic/Equiv/Basic.lean:826]: Done.

File: Mathlib/Logic/Equiv/Basic.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (semorrison) [reply Mathlib/Logic/Equiv/Basic.lean:1428]: I'm doing this now.

[the remark this answers is not in the document]
Comment (semorrison) [reply Mathlib/Logic/Equiv/Basic.lean:1429]: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/logic.2Eequiv.2Ebasic.20mathlib4.23631/near/311869098

**Review by Ruben-VandeVelde — APPROVED** [review]
lgtm

**Comment by semorrison** [comment]
bors merge
